US07326788B2
6-Chloro-3-{3-[(2-morpholin-4-yl-ethylamino)-methyl]-isoxazol-5-yl}-4-phenyl-1H-quinolin-2-one
From 5-(6-chloro-2-oxo-4-phenyl-1,2-dihydro-quinolin-3-yl)-isoxazole-3-carboxaldehyde and 2-morpholin-4-yl-ethylamine according to procedure 24. Yield 37%.

reactant | 5-(6-chloro-2-oxo-4-phenyl-1,2-dihydro-quinolin-3-yl)-isoxazole-3-carboxaldehyde | ClC=1C=C2C(=C(C(NC2=CC1)=O)C1=CC(=NO1)C=O)C1=CC=CC=C1 | C19H11ClN2O3
reactant | 2-morpholin-4-yl-ethylamine | N1(CCOCC1)CCN | C6H14N2O
product | 6-Chloro-3-{3-[(2-morpholin-4-yl-ethylamino)-methyl]-isoxazol-5-yl}-4-phenyl-1H-quinolin-2-one | Yield 37% | ClC=1C=C2C(=C(C(NC2=CC1)=O)C1=CC(=NO1)CNCCN1CCOCC1)C1=CC=CC=C1 | C25H25ClN4O3
